US04348411
14 g (0.05 mol) of tetrachlorophthalic anhydride and 11 g (0.05 mol) of 4-trifluoromethylsulphonylaniline were heated to 200° C. and the mixture was kept at this temperature for 2 hours. It was then cooled and the reaction product was precipitated by adding ice-water. The product was then filtered off, washed with 50 ml of methanol and then stirred with 10% strength sodium hydroxide solution until it had dissolved. The impurities were filtered off and aqueous dilute hydrochloric acid was added to the filtrate. The crystals thereby obtained were filtered off and dried at 50° C. 14 g (that is to say 56% of theory) of N-(4-trifluoromethylsulphonylphenyl)-tetrachlorophthalamic acid of melting point 92°-97° C. were obtained.

reactant | tetrachlorophthalic anhydride | 0.05 mol, 14 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | 4-trifluoromethylsulphonylaniline | 0.05 mol, 11 g | FC(S(=O)(=O)C1=CC=C(N)C=C1)(F)F | C7H6F3NO2S
product | N-(4-trifluoromethylsulphonylphenyl)-tetrachlorophthalamic acid | 14 g, 56% | FC(S(=O)(=O)C1=CC=C(C=C1)NC(C=1C(C(=O)O)=C(C(=C(C1Cl)Cl)Cl)Cl)=O)(F)F | C15H6Cl4F3NO5S
